US07053099B1
a) 2-Phenoxy-6-aminobenzonitrile
Phenol (2.06 g, 22 mmol) was dissolved in dry dimethyl sulfoxide (25 mL), and sodium hydride (0.53 g, 22 mmol) was added in portions, and the mixture stirred for 1 hour under argon. 2-Amino-6-fluorobenzonitrile (2.72 g, 20 mmol) was added and the mixture heated to 110° C. overnight. The solvent was evaporated in vacuo, and the residue was partitioned between ethyl acetate and water. The organic phase was washed with water (5×), brine (1×) dried over anhydrous Na2SO4 filtered, and evaporated to give the crude product which was then chromatographed on silica gel eluted with 0–20% ethyl acetate in hexane to give the title compound as a white amorphous solid. Recrystallization from carbon tetrachloride, hexane gave a white crystalline solid. mp 66–67° C.

reactant | Phenol | 22 mmol, 2.06 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 22 mmol, 0.53 g | [H-].[Na+]
reactant | 2-Amino-6-fluorobenzonitrile | 20 mmol, 2.72 g | NC1=C(C#N)C(=CC=C1)F | C7H5FN2
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | 2-Phenoxy-6-aminobenzonitrile | O(C1=CC=CC=C1)C1=C(C#N)C(=CC=C1)N | C13H10N2O
